US06235771B1
To a solution of methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.8 g) in THF (10 ml) was added at 0° C. 70% 3-chloroperbenzoic acid (1.45 g), and the mixture was stirred at 0° C. for 30 minutes and further at room temperature for 1 hour. To the mixture was added an aqueous solution of sodium thiosulfate, and the mixture was stirred for a few minutes and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with column chromatography (ethyl acetate/hexane=1:1) and recrystallized from ethyl acetate/hexane to give pale yellow crystals of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (827 mg). 1H-NMR (200 MHz, CDCl3) δ 3.11 (2H, t, J=6.5 Hz), 3.62 (2H, t, J=6.5 Hz), 3.87 (3H, s), 7.64-7.76 (3H, m), 8.03 (1H, d, J=8.4 Hz). IR (KBr) 1718, 1288, 1263, 1165, 1128, 1090, 797, 748 cm−1; Anal. for C12H11O4SBr; Calcd. C, 43.52; H, 3.35; Found. C, 43.39; H, 3.38.

reactant | methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.8 g | BrC=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C12H11BrO2S
reactant | 3-chloroperbenzoic acid | 1.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 827 mg | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
